US04281003
1-(2-CHLORO-6-FLUOROBENZOYL)-3-(5-TRIFLUOROMETHYL-2-PYRIDINYL)UREA
A solution is made in an inert organic solvent of 2-chloro-6-fluorobenzamidocarboxylic acid, 4-nitrophenyl ester, and 5-trifluoromethyl-2-aminopyridine. The temperature of the reaction mixture is raised, and the mixture is stirred for a period of time. The mixture is then evaporated under vacuum, and the product named in the heading above, identical to the product of Example 4, is isolated and purified by recrystallization.

reactant | 2-chloro-6-fluorobenzamidocarboxylic acid, 4-nitrophenyl ester | ClC1=C(C(=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C(=CC=C1)F | C14H8ClFN2O5
reactant | 5-trifluoromethyl-2-aminopyridine | FC(C=1C=CC(=NC1)N)(F)F | C6H5F3N2
product | 1-(2-CHLORO-6-FLUOROBENZOYL)-3-(5-TRIFLUOROMETHYL-2-PYRIDINYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NC=C(C=C2)C(F)(F)F)C(=CC=C1)F | C14H8ClF4N3O2
